US09376449B2
A mixture of 3-[(6-bromo-2,3-dihydro-1-benzofuran-5-yl)hydrazinylidene]piperidin-2-one (a mixture of E and Z isomers)(137 mg) and acetic acid (3.00 mL) was stirred at 115° C. for 4 hours. After cooling to room temperature, the reaction mixture was concentrated under reduced pressure and the obtained residue was purified by silica gel chromatography (chloroform:methanol=100:0 to 96:4) to obtain 5-bromo-1,2,6,8,9,10-hexahydro-7H-furo[3,2-e]pyrido[3,4-b]indol-7-one (40.0 mg) as a red solid.

reactant | 3-[(6-bromo-2,3-dihydro-1-benzofuran-5-yl)hydrazinylidene]piperidin-2-one | BrC1=CC2=C(CCO2)C=C1NN=C1C(NCCC1)=O | C13H14BrN3O2
reactant | acetic acid | 3.00 mL | C(C)(=O)O | C2H4O2
product | 5-bromo-1,2,6,8,9,10-hexahydro-7H-furo[3,2-e]pyrido[3,4-b]indol-7-one | 40.0 mg | BrC=1C=C2C(=C3C4=C(NC13)C(NCC4)=O)CCO2 | C13H11BrN2O2
